US06022906
5b 1-[3-(Mercaptopropylthio)phenyl]-2-dimethylamino-2-benzyl-propan-1-one
22.8 g (0.21 mol) of 1,3-propanedithiol is dissolved in 50 ml of dry dimethylacetamide, 4.8 g of potassium carbonate are added and the mixture is heated to about 50° C. 10.0 g of 1-(4-fluorophenyl) 2-dimethylamino-2-benzyl-propan-1-one in 50 ml of dry dimethylacetamide are added dropwise. The suspension is stirred at 50° C. for 12 h, the solid is filtered off. The excess 1,3-propandithiol and dimethylacetamide are distilled off. To the residue toulene is added and the resulting precipitate is filtered off. After the toluene is distilled off, the residue is purified by column chromatography on silica gel with ethyl acetate-hexane (1:9) as eluent. The structure is confirmed by the 1H-NMR-spectrum, measured in CDCl3. The signals (δ in ppm) are 1.16 (s,3H), 1.40 (t, 1H), 2.02 (m,2H), 2.34 (s,6H), 2.71 (q,2H), 2.96 (d, 1H), 3.14 (t,2H), 3.68 (d,1H), 6.88 (m,2H), 7.12 (m,3H), 7.29 (d,2H), 8.44 (d,2H).

reactant | 1,3-propanedithiol | 0.21 mol, 22.8 g | C(CCS)S | C3H8S2
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-fluorophenyl) 2-dimethylamino-2-benzyl-propan-1-one | 10.0 g | FC1=CC=C(C=C1)C(C(C)(CC1=CC=CC=C1)N(C)C)=O | C18H20FNO
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | 1-[3-(Mercaptopropylthio)phenyl]-2-dimethylamino-2-benzyl-propan-1-one | SCCCSC=1C=C(C=CC1)C(C(C)(CC1=CC=CC=C1)N(C)C)=O | C21H27NOS2
